US05977101
a) N-[N-(Benzyloxycarbonyl)glycyl]-4-methoxy-2-nitroaniline
N-(Benzyloxycarbonyl)glycine (2.72 g, 13.13 mmol) was dissolved in CH2Cl2 and an excess of thionyl chloride at room temperature. After 2 h, the reaction was evaporated under vacuum and the residue was stripped with toluene twice and dried under vacuum. The white solid was taken into CH2Cl2 and 4-methoxy-2-nitroaniline (2.1819 g, 12.98 mmol) was added as a solid, followed by triethylamine (2.0 mL, 1.455 g, 14.38 mmol). The reaction was stirred at RT for 24 h, then was evaporated under vacuum. The residue was dissolved in EtOAc and washed with aqueous 1N NaHCO3. The EtOAc layer was dried (MgSO4) and concentrated under vacuum. Thin layer chromatography analysis (1:1:1 hexanes/Et2O/CH2Cl2) showed good conversion to the acylated material. The crude material was dissolved in 2:1:1 hexanes/Et2O/CH2Cl2 initially, with the addition of enough Et2O/CH2Cl2 and sonication/heating to dissolve all the solid material. Silica gel chromatography (2:1:1 hexanes/Et2O/CH2Cl2 (2 L), then 1:1:1 hexanes/Et2O/CH2Cl2 (1.5 L), then Et2O/CH2Cl2) gave the title compound (3.3387 g, 72%): 1H NMR (250 MHz, CDCl3) δ 3.85 (s, 3H), 4.06 (d, 2H), 5.18 (s, 2H), 5.61 (t, 1H), 7.2-7.4 (m, 6H), 7.65 (d, 1H), 8.63 (d, 1H).

reactant | N-(Benzyloxycarbonyl)glycine | 13.13 mmol, 2.72 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-methoxy-2-nitroaniline | 12.98 mmol, 2.1819 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 14.38 mmol, 2.0 mL, 1.455 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[N-(Benzyloxycarbonyl)glycyl]-4-methoxy-2-nitroaniline | 3.3387 g, 72% | C(C1=CC=CC=C1)OC(=O)NCC(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C17H17N3O6
